US05660762
(2) Preparation of 4-acetoxy-1-heptyloxycarbonylbenzene
3.5 Grams of 4-acetoxybenzoic acid was added to 25 ml of thionyl chloride, and the mixture was allowed to react under reflux for 10 hours. Then, excessive thionyl chloride was distilled off, 10 ml of pyridine and 50 ml of toluene were then added, and 1.5 g of n-heptanol was dropwise added. After the addition, the mixture was refluxed under heat for 4 hours, and then the reaction mixture was allowed to cool and diluted with 500 ml of dichloromethane. An organic layer was consecutively washed with diluted hydrochloric acid, with a 1N sodium hydroxide aqueous solution and with water, and dried over magnesium sulfate. Further, the solvent was distilled off to give 1.7 g of the crude intended product.

reactant | 4-acetoxybenzoic acid | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-acetoxy-1-heptyloxycarbonylbenzene | C(C)(=O)OC1=CC=C(C=C1)C(=O)OCCCCCCC | C16H22O4
